US07309703B2
C. 1-[1-{2-Hydroxy-3-[4-(2-hydroxy-phenyl)-piperazin-1-yl]-propyl}-3-(4-iodo-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone
1-[3-(4-Iodo-phenyl)-1-oxiranylmethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone (62 mg, 0.15 mmol) and 4-(2-hydroxyphenyl)-piperazine (34 mg, 0.19 mmol) were combined in CH2Cl2 (0.5 mL) and the solution treated with Yb(OTf)3.H2O (44 mg, 0.071 mmol). The mixture was shaken for 72 h then diluted with CH2Cl2 (1 mL). Purification by preparative TLC (silica, 10% MeOH/CH2Cl2) grave 45 mg (51%) of an off-white powder. TLC (silica, 8% MeOH/CH2Cl2): Rf=0.2. MS (electrospray): m/z calculated for C27H33IN5O3 [M+H]+ 602.15, found 602.2. 1H NMR (CDCl3, 500 MHz, a mixture of amide rotamers): 7.76 (d, J=8.6 Hz,1H), 7.72 (d, J=8.6 Hz, 1H), 7.42 (d, J=8.5 Hz, 1H), 7.34 (d, J=8.5 Hz, 1H), 7.14 (m, 1H), 7.80 (t, J=7.7 Hz, 1H), 6.94 (d, J=8.1 Hz, 1H), 6.86 (t, J=7.7 Hz, 1H), 4.83 and 4.72 (A and B of AB quartet, Jab=15.6 Hz, 1H), 4.61 (s, 1H), 4.22-4.15 (m, 2H), 4.02 (m, 2H), 3.88 (m, 1H), 3.76 (m, 3H), 3.00-2.49 (m, 11H), 2.20 (s, 1.5H), 2.15 (s, 1.5H).

reactant | 1-[3-(4-Iodo-phenyl)-1-oxiranylmethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 0.15 mmol, 62 mg | IC1=CC=C(C=C1)C1=NN(C2=C1CN(CC2)C(C)=O)CC2OC2 | C17H18IN3O2
reactant | 4-(2-hydroxyphenyl)-piperazine | 0.19 mmol, 34 mg | OC1=C(C=CC=C1)N1CCNCC1 | C10H14N2O
reactant | Yb(OTf)3.H2O | 0.071 mmol, 44 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3].O
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-[1-{2-Hydroxy-3-[4-(2-hydroxy-phenyl)-piperazin-1-yl]-propyl}-3-(4-iodo-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | OC(CN1N=C(C=2CN(CCC21)C(C)=O)C2=CC=C(C=C2)I)CN2CCN(CC2)C2=C(C=CC=C2)O | C27H32IN5O3
